US07863444B2
Trifluoroacetic acid (2 ml) was added dropwise to a solution of tert-butyl N-[4-(4-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyphenyl]carbamate (0.58 g, 1.31 mmol) in dichloromethane (20 ml) at 0° C. The ice bath was removed and the reaction mixture was stirred at room temperature for 3 h. Most of trifluoroacetic acid and dichloromethane were removed under reduced pressure. The residue was redissolved in dichloromethane and washed with saturated aqueous sodium bicarbonate solution, dried over magnesium sulfate, filtered and evaporated to give 4-(4-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyaniline as white solids (0.45 g, 1.31 mmol): 1H NMR (DMSO-d6, 400 MHz) δ 8.61 (s, 1H), 7.78 (s, 1H), 6.97 (d, 1H), 6.85 (dd, 1H), 6.67 (d, 1H), 5.20 (m, 1H), 4.78 (broad, 2H), 3.81 (s, 3H), 2.18 (m, 2H), 1.88-2.00 (m, 4H), 1.72 (m, 2H); MH+343.

reactant | Trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl N-[4-(4-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyphenyl]carbamate | 1.31 mmol, 0.58 g | ClC=1C2=C(N=CN1)N(C=C2C2=CC(=C(C=C2)NC(OC(C)(C)C)=O)OC)C2CCCC2 | C23H27ClN4O3
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-(4-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyaniline | 1.31 mmol, 0.45 g | ClC=1C2=C(N=CN1)N(C=C2C2=CC(=C(N)C=C2)OC)C2CCCC2 | C18H19ClN4O
